US06833480B2
A solution of 2,3-dichlorophenylacetylene (0.02 mol), 2-chloro-4-fluorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-2,3-dichlorostyryl-2-chloro-4-fluorobenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 2,3-dichlorophenylacetylene | 0.02 mol | ClC1=C(C=CC=C1Cl)C#C | C8H4Cl2
reactant | 2-chloro-4-fluorobenzyl mercaptan | 0.02 mol | ClC1=C(CS)C=CC(=C1)F | C7H6ClFS
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,3-dichlorostyryl-2-chloro-4-fluorobenzylsulfide | ClC1=C(\C=C/C(C2=C(C=C(C=C2)F)Cl)SC(C2=C(C=C(C=C2)F)Cl)\C=C/C2=C(C(=CC=C2)Cl)Cl)C=CC=C1Cl | C30H18Cl6F2S
